US06759554B2
N-Benzyl-N′-phenyl-urea
A test tube was charged with CuI (20 mg, 0.10 mmol, 0.10 equiv), K3PO4 (425 mg, 2.0 mmol, 2.0 equiv), benzylurea (225 mg, 1.5 mmol, 1.5 equiv), filled with argon. Bromobenzene (105 μL, 1.0 mmol, 1.0 equiv), N,N′-dimethylethylendiamine (22 μL, 0.20 mmol, 0.20 equiv) and dry dioxane (1.0 mL) were added under argon. The test tube was sealed and the reaction mixture was stirred at 80° C. for 25 h. The resulting suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel, eluting with ethyl acetate. The filtrate was concentrated in vacuo. The solid residue was dissolved in ˜2 mL DMF. Purification of the residue by flash chromatography on silica gel (2×20 cm; hexane:ethyl acetate 3:1) provided 179 mg (79% yield) of the title compound as a white solid.

reactant | K3PO4 | 2.0 mmol, 425 mg, 2.0 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylurea | 1.5 mmol, 225 mg, 1.5 equiv | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | Bromobenzene | 1.0 mmol, 105 μL, 1.0 equiv | BrC1=CC=CC=C1 | C6H5Br
reactant | N,N′-dimethylethylendiamine | 0.20 mmol, 22 μL, 0.20 equiv | CNCCNC | C4H12N2
catalyst | CuI | 0.10 mmol, 20 mg, 0.10 equiv | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-Benzyl-N′-phenyl-urea | 179 mg, 79% yield | C(C1=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C14H14N2O
